US07659412B2
N-{6-[2-(2,4-dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-pyridin-2-ylmethyl}-acetamide was prepared via a Suzuki coupling of ((2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone and N-(6-Bromo-pyridin-2-ylmethyl)-acetamide as described in method 6 step 2. 1H-NMR (CD3OD) δ 8.19 (s, 1H), 8.05 (dd, J=9 Hz, J=2 Hz, 1H), 7.99-7.89 (m, 3H), 7.64 (d, J=2 Hz, 1H), 7.57-7.51 (m, 2H), 7.40 (d, J=7 Hz, 1H), 4.59 (s, 2H), 2.62 (s, 3H), 2.07 (s, 3H).

reactant | (2,4-dichlorophenyl)-[3-methyl-6-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-benzofuran-2-yl]-methanone | ClC1=C(C=CC(=C1)Cl)C(=O)C=1OC2=C(C1C)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C22H21BCl2O4
reactant | N-(6-Bromo-pyridin-2-ylmethyl)-acetamide | BrC1=CC=CC(=N1)CNC(C)=O | C8H9BrN2O
product | N-{6-[2-(2,4-dichloro-benzoyl)-3-methyl-benzofuran-6-yl]-pyridin-2-ylmethyl}-acetamide | ClC1=C(C(=O)C=2OC3=C(C2C)C=CC(=C3)C3=CC=CC(=N3)CNC(C)=O)C=CC(=C1)Cl | C24H18Cl2N2O3
